US07008759B2
Step 1F. Synthesis of 2-methyl-4-octadecyloxyaniline
The mixture of crude 2-methyl-4-octadecyloxynitrobenzene (30 g, ca. 0.065 mol), methanol (55 mL), concentrated hydrochloric acid (40.5 mL) and dioxane (50 mL) was heated to 85° C. Iron powder (11.2 g, 0.20 mol) was added in small portions with intensive stirring. After the addition was complete the reaction mixture was stirred at 85° C. for another 3 hours and poured warm into water (800 mL), stirred for 30 minutes and the pH adjusted to 10.0 by addition of aqueous potassium carbonate solution. Dichloromethane (1.0 L) was added and mixture was stirred intensively for 1 hour. The layers were separated and the organic layer was washed with water (2×500 mL) and dried over sodium sulfate. The solvent was evaporated to give an oil (20 g, 0.053 mol, 82% yield), which solidified on standing.

reactant | 2-methyl-4-octadecyloxynitrobenzene | ca. 0.065 mol, 30 g | CC1=C(C=CC(=C1)OCCCCCCCCCCCCCCCCCC)[N+](=O)[O-] | C25H43NO3
reactant | methanol | 55 mL | CO | CH4O
reactant | hydrochloric acid | 40.5 mL | Cl | ClH
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
catalyst | Iron | 0.20 mol, 11.2 g | [Fe] | Fe
solvent | Dichloromethane | 1.0 L | ClCCl | CH2Cl2
solvent | water | 800 mL | O | H2O
solvent | dioxane | 50 mL | O1CCOCC1 | C4H8O2
product | 2-methyl-4-octadecyloxyaniline | 0.053 mol, 20 g, 82% yield | CC1=C(N)C=CC(=C1)OCCCCCCCCCCCCCCCCCC | C25H45NO
